US07435823B2
Oxalyl chloride (2.60 g, 1.79 mL, 20.5 mmol) was added dropwise to a solution of 6-(benzyloxy)-4-(dibenzylamino)-1-naphthoic acid (3.236 g, 6.834 mmol) in dichloromethane (70 mL) and DMF (1 drop). The mixture stirred at RT for 1 h and was concentrated to afford a yellow solid. CH2Cl2 (60 mL) was added followed by the dropwise addition of MeOH(10 mL), and the mixture stirred at RT for 45 min. The mixture was concentrated to afford methyl 6-(benzyloxy)-4-(dibenzylamino)-1-naphthoate as a light brown solid. MS (ESI, pos. ion) m/z: 488.2 (M+H). Mass Calc'd for C33H29NO3: 487.

reactant | Oxalyl chloride | 20.5 mmol, 1.79 mL, 2.60 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-(benzyloxy)-4-(dibenzylamino)-1-naphthoic acid | 6.834 mmol, 3.236 g | C(C1=CC=CC=C1)OC=1C=C2C(=CC=C(C2=CC1)C(=O)O)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C32H27NO3
reactant | MeOH | 10 mL | CO | CH4O
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | methyl 6-(benzyloxy)-4-(dibenzylamino)-1-naphthoate | C(C1=CC=CC=C1)OC=1C=C2C(=CC=C(C2=CC1)C(=O)OC)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C33H29NO3
